US06747047B2
Step B: Preparation of 1-Phenyl-3-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid
A sample of crude 1-phenyl-3-(trifluoromethyl)-5-methylpyrazole (˜89%, 50.0 g, 0.221 mole) was mixed with water (400 mL) and cetyltrimethylammonium chloride (4.00 g, 0.011 mole). The mixture was heated to 95° C. Potassium permanganate was added in 10 equal portions, spaced at ˜8 minute intervals. The reaction mass was maintained at 95-100° C. during this period. After the last portion was added, the mixture was held for ˜15 minutes at 95-100° C., whereupon the purple, permanganate color had been discharged. The reaction mass was filtered while hot (˜75° C.) through a 1 cm thick bed of Celite® on a 150 ml, coarse, glass frit. The filter cake was washed with warm (˜50° C.) water (3×100 mL). The combined filtrate and washings were extracted with ether (2×100 mL) to remove a small amount of yellow, water-insoluble material. The aqueous layer was purged with nitrogen to remove residual ether. The clear, colorless alkaline solution was acidified by adding concentrated hydrochloric acid dropwise until the pH reached ˜1.3 (28 g, 0.28 mole). Gas evolution was vigorous during the first two-thirds of the addition. The product was collected via filtration, washed with water (3×40 mL), then dried overnight at 55° C. in vacuo. The product consisted of 11.7 g of a white, crystalline powder, which was essentially pure based upon 1H NMR.

reactant | 1-phenyl-3-(trifluoromethyl)-5-methylpyrazole | 0.221 mole, 50.0 g | C1(=CC=CC=C1)N1N=C(C=C1C)C(F)(F)F | C11H9F3N2
reactant | Potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | water | 400 mL | O | H2O
catalyst | cetyltrimethylammonium chloride | 0.011 mole, 4.00 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 1-Phenyl-3-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid | C1(=CC=CC=C1)N1N=C(C=C1C(=O)O)C(F)(F)F | C11H7F3N2O2
